US07723329B2
Methyliodide (0.06 mL, 0.96 mmol) was added to a chilled mixture of toluene -4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.401 g, 0.767 mmol) and cesium carbonate (0.29 g, 0.89 mmol) in acetone (10 mL). The reaction mixture was stirred at ambient temperature under nitrogen for 3 hours. It was then partitioned in ethyl acetate and water. The organic phase was washed with brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography with 25-40% ethyl acetate in hexane, 100% chloroform and 1% methanol in chloroform. Drying at 65° C. in vacuo for yielded toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester as a buff foam (0.224 g, 54.4%). 1HNMR (400 MHz, DMSO-d6): δ8.27 (d, 1H, J=8.54 Hz), 8.55 (dd, 1H, J=7.42 Hz and 1.16 Hz), 8.30 (d, 1H, J=8.35 Hz), 8.05-8.07 (m, 1H), 7.72-7.76 (m, 3H), 7.60-7.70 (m, 3H), 7.31 (d, 2H, J=8.01 Hz), 7.18 (d, 1H, J=2.20 Hz), 7.00-7.03 (m, 1H), 4.35-4.37 (m, 2H), 4.22-4.24 (m, 2H), 4.07 (s, 3H), 2.28 ppm (s, 3H).

reactant | Methyliodide | 0.96 mmol, 0.06 mL | CI | CH3I
reactant | toluene -4-sulfonic acid 2-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.767 mmol, 0.401 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C26H22N2O6S2
reactant | cesium carbonate | 0.89 mmol, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | toluene-4-sulfonic acid 2-[1-methyl-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | CN1N=C(C2=CC(=CC=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C27H24N2O6S2
